US07700641B2
C. Synthesis of 2-{2-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione
Following the procedure as described in PREPARATION 1D, and making non-critical variations to replace 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 2-{2-[3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione, the title compound was obtained (90%) as a white solid: 1H NMR (300 MHz, CD3OD) δ 10.15-10.05 (br, 1H), 8.66-8.58 (m, 4H), 8.07-7.70 (m, 4H), 7.12 (s, 1H), 7.18 (s, 1H), 6.70 (s, 1H), 6.69 (s, 1H), 5.50 (s, 1H), 4.91-4.56 (m, 4H); MS (ES+) m/z 443 (M+1).

reactant | 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)(C1=CC2=C(OCO2)C=C1O)O | C20H20BrNO5
reactant | 2-{2-[3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione | OC1(C(N(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O)=O)C1=CC2=C(OCO2)C=C1O | C25H18N2O7
product | 2-{2-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C25H18N2O6
